US08957062B2
Step A: N′-hydroxy-4-[(1R,2S)-2-(2-{[5-(methylsulfonyl)pyridin-2-yl]oxy}ethyl)cyclopropyl]piperidine-1-carboximidamide
5-(methylsulfonyl)-2-(2-((1S,2R)-2-(piperidin-4-yl)cyclopropyl)ethoxy)pyridine (320 mg, 0.98 mmol) was combined with cyanogen bromide (0.395 mL of a 3.0M solution, 1.19 mmol) and sodium bicarbonate (250 mg, 3.0 mmol) at 0° C. in a 10:1 mixture of DCM/water (5 mL), and the resulting slurry stirred for 30 min and warmed to ambient temperature. After 3 hr, HPLC/MS indicated no starting material. The reaction mixture was diluted with dichloromethane (10 mL), water (3 mL) and the layers separated. The organic layer was dried over magnesium sulfate, filtered, concentrated in vacuo and purified by flash chromatography (10-40% acetone/hexanes, 25S+ column) to afford a white film (not weighed). The material was dissolved in 3 mL of methanol and to this solution was added hydroxylamine (82 mg, 1.19 mmol) and triethylamine (0.2 mL, 1.48 mmol). The mixture was then heated to reflux for 2 hrs and then cooled to ambient temperature. The mixture was concentrated under reduced pressure and the residue was purified by flash chromatography (3.5% methanol/95.5% dichloromethane/1% NH4OH, 25S+ column) to afford title compound as a white foam. HPLC/MS; 0.99 min, 383 (M+H)+.

reactant | 5-(methylsulfonyl)-2-(2-((1S,2R)-2-(piperidin-4-yl)cyclopropyl)ethoxy)pyridine | 0.98 mmol, 320 mg | CS(=O)(=O)C=1C=CC(=NC1)OCC[C@H]1[C@H](C1)C1CCNCC1 | C16H24N2O3S
reactant | cyanogen bromide | N#CBr | CBrN
reactant | sodium bicarbonate | 3.0 mmol, 250 mg | C([O-])(O)=O.[Na+]
reactant | hydroxylamine | 1.19 mmol, 82 mg | NO | H3NO
reactant | triethylamine | 1.48 mmol, 0.2 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 3 mL | O | H2O
solvent | methanol | 3 mL | CO | CH4O
solvent | DCM water | 5 mL | C(Cl)Cl.O
product | N′-hydroxy-4-[(1R,2S)-2-(2-{[5-(methylsulfonyl)pyridin-2-yl]oxy}ethyl)cyclopropyl]piperidine-1-carboximidamide | ON=C(N)N1CCC(CC1)[C@@H]1[C@@H](C1)CCOC1=NC=C(C=C1)S(=O)(=O)C | C17H26N4O4S
